US06489487B1
To a solution of 4.56 g (14.6 mmol) of 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 299 of the present invention) in 30 ml of N,N-dimethylformamide were added 4.20 g (16 mmol) of thallium (I) acetate, 9.34 ml (72.6 mmol) of butyl vinyl ether, 604 mg (3.64 mmol) of 1,3-bis(diphenylphosphino)propane, 160 mg (0.72 mmol) of palladium (II) acetate and 2.44 ml (17.5 mmol) of triethylamine and the mixture was stirred at 90° C. under an atmosphere of nitrogen for 8 hours. After the reaction mixture was cooled to room temperature, diluted hydrochloric acid (prepared by mixing 21 ml of concentrated hydrochloric acid and 130 ml of water) was added thereto, and the mixture was stirred for 30 minutes. The reaction mixture was filtered with cotton and washed with chloroform, and the filtrate was separated. After the water layer was extracted with chloroform once again, the organic layers were combined, washed with water (twice), dried and concentrated. Then, to the semisolid residue was added a mixture of equal amounts of tert-butyl methyl ether and hexane and the mixture was stirred at room temperature for a while. The solid was collected by filtration to obtain 2.58 g of 4-(5-acetyl-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 73 of the present invention) as pale yellow powder.

reactant | 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 14.6 mmol, 4.56 g | BrC=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C | C12H14BrN3O2
reactant | thallium (I) acetate | 16 mmol, 4.20 g | C(C)(=O)[O-].[Tl+]
reactant | butyl vinyl ether | 72.6 mmol, 9.34 ml | C(=C)OCCCC | C6H12O
reactant | 1,3-bis(diphenylphosphino)propane | 3.64 mmol, 604 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 17.5 mmol, 2.44 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 21 ml | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.72 mmol, 160 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(5-acetyl-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 2.58 g | C(C)(=O)C=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C | C14H17N3O3
